US06429214B1
[6-(2-tertbutoxycarbonylamino-ethoxy)-1,2,3,4-tetrahydro-napthalen-2-yl]-acetic acid ethyl ester
The title compound is prepared according to the procedure of Example 19 except that (2-bromo-ethyl)-carbamic acid tert-butyl ester is used in place of (3-bromo-propyl)-carbamic acid tert-butyl ester and (6-hydroxy-1,2,3,4-tetrahydro-napthalen-2-yl)-acetic acid ethyl ester is used in place of (7-hydroxy-1,2,3,4-tetrahydro-napthalen-2-yl)-acetic acid ethyl ester.

reactant | (2-bromo-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCBr)=O | C7H14BrNO2
reactant | (6-hydroxy-1,2,3,4-tetrahydro-napthalen-2-yl)-acetic acid ethyl ester | C(C)OC(CC1CC2=CC=C(C=C2CC1)O)=O | C14H18O3
product | [6-(2-tertbutoxycarbonylamino-ethoxy)-1,2,3,4-tetrahydro-napthalen-2-yl]-acetic acid ethyl ester | C(C)OC(CC1CC2=CC=C(C=C2CC1)OCCNC(=O)OC(C)(C)C)=O | C21H31NO5
